Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
B/L upper extremity hand tingling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ hx HTN presenting with
numbness/tingling of her LLE and arms which began yesterday at
3pm. She was sitting and felt like her left leg fell asleep;
however, it felt more numb and tingly than usual and had some
cramping. She then sat up and felt warm/flushed and light 
headed.
She walked around and still felt light headed and also
experienced some tingling in both of her arms w/her LLE symptoms
resolving. Patient currently feels a little light headed.
Notably, patient recently drastically changed her diet and cut
out all junk food and is eating much less. She has lost about
15lbs. She states her SBP at triage of 160  is much higher than
her baseline.  She notes that although she has been prescribed
HCTZ for BP for years she was only compliant with it daily
recently in conjunction with the change in her diet.  
ROS: 
She does not report, n/v/d. She does not have cp, nor cough, nor
shortness of breath nor dysuria.  She now feels very well with
resolution of her sx with IVF and potassium supplementation.
Pertinent positives and negatives as noted in the HPI.  All 
other
systems were reviewed and are negative. 
In the ED VS on presentation:
0 |98.1 |100 |160/108 |18 |100% RA 
CXR demonstrated 
Her HR increased with sitting up and thus a CXR demonstrated:
6.5 x 4.1 cm right paratracheal opacity which causes leftward
mass effect on the trachea. Chest CTA demonstrated a 4.6 x4.7x
7.1 cm posterior mediastinal mass which exerts mass effect on 
the
lower trachea and right thyroid lobe. She was admitted for
further evaluation. 
 
Past Medical History:
HTN
 
Social History:
___
Family History:
Her father died of cirrhosis. 
She is estranged from her mother and thinks that her mother is
healthy. 
 
Physical Exam:
EXAM(8)
VITALS: 
___ ___ Temp: 98.6 PO BP: 122/94 HR: 81 RR: 16 O2 sat: 97%
O2 delivery: RA 
GENERAL: Alert, well appearing and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
No stridor
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
LABS:
___ 06:05PM BLOOD WBC-4.1 RBC-4.67 Hgb-13.1 Hct-38.3 MCV-82 
MCH-28.1 MCHC-34.2 RDW-12.2 RDWSD-36.9 Plt ___
___ 06:10AM BLOOD WBC-4.8 RBC-4.51 Hgb-12.8 Hct-37.0 MCV-82 
MCH-28.4 MCHC-34.6 RDW-12.1 RDWSD-36.4 Plt ___
___ 06:05PM BLOOD Neuts-49.9 ___ Monos-10.2 
Eos-0.2* Baso-0.7 Im ___ AbsNeut-2.05 AbsLymp-1.60 
AbsMono-0.42 AbsEos-0.01* AbsBaso-0.03
___ 06:10AM BLOOD ___ PTT-30.7 ___
___ 06:05PM BLOOD Glucose-98 UreaN-14 Creat-1.0 Na-136 
K-3.1* Cl-91* HCO3-27 AnGap-18
___ 06:05PM BLOOD Calcium-9.6 Phos-1.9* Mg-1.8
___ 06:10AM BLOOD Glucose-69* UreaN-9 Creat-0.9 Na-142 
K-3.0* Cl-98 HCO3-23 AnGap-21*
___ 06:10AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.1
___ 06:10AM BLOOD LD(LDH)-166

IMAGING:
CXR:
IMPRESSION: 
6.5 x 4.1 cm right paratracheal opacity which causes leftward 
mass effect on
the trachea. Differential diagnosis includes a large, substernal 
right lobe of
the thyroid, but other mediastinal masses are not excluded.  
Recommend chest
CT for further assessment.

CT chest with contrast:
IMPRESSION:
1. Please note that there was leakage of contrast during the 
exam which limits
evaluation of intrathoracic structures.
2. Within these limitations, there is a heterogeneously 
enhancing 4.6 x 4.7 x
7.1 cm posterior mediastinal mass which exerts mass effect on 
the lower
trachea and right thyroid lobe and remains nonspecific with 
somewhat broad
differential considerations include, goiter/large thyroid 
nodule, and less
likely neurogenic tumor or lymphoma.
3. No evidence of pulmonary embolism or aortic dissection.
RECOMMENDATION(S):  Dedicated MRI can be obtained for further 
evaluation.
Alternatively, tissue sampling can be considered with 
bronchoscopic approach.

CT head:
IMPRESSION: 
No acute intracranial process.
 
Brief Hospital Course:
SUMMARY:
Ms. ___ is a ___ female with HTN who presented with 
hypokalemia & paresthesias found to have a mediastinal mass.

HOSPITAL COURSE BY PROBLEM:
# HYPOKALEMIA
# PARESTHEIAS
-  Her hypokelmia  may be secondary to her alteration in po 
intake  and her diuretic
- diuretic held as she is normotensive
- paresthesias resolved with resolution of hypokalemia. She was 
started on potassium chloride 20 mEq daily. 

# MEDIASTINAL MASS
- Thoracic surgery and ___ consult
- pt is clear that she cannot stay longer than today because she
must feed her cat
- her case was discussed with thoracic surgery and IP. The case 
was also reviewed with Dr. ___ (H&N surgery). The mass is 
most likely a goiter. She will follow up with Dr. ___ in 
clinic this week. 

CHRONIC/STABLE PROBLEMS:
# HTN:   HCTZ on hold for now given hypokalemia and improved BP 
(normotensive) in the setting of intentional weight loss

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Potassium Chloride 80 mEq PO ONCE Duration: 1 Dose 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until instructed by 
your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intrathoracic mass
Hypokalemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital for paresthesias (likely due 
to low potassium level). You were found to have a mass in your 
chest that is most likely a goiter. This will have to be 
surgically removed. Dr. ___ is our head & neck surgery 
specialist who will see you in his clinic - likely on ___ but 
his administrative people will call you to schedule an 
appointment.
You should stop taking the hydrochlorothiazide. You should start 
taking potassium 20 mEq daily. Follow up with your primary care 
doctor next week as detailed below to check on your blood 
pressure and potassium level.
If you have shortness of breath, difficulty swallowing, 
swelling, chest pain, or lightheadedness/dizziness. You should 
return to the emergency department. 
Best wishes for your continued health.
Take care,
Your ___ Care Team
 
Followup Instructions:
___